US07723321B2
STEP 8-1: 5,7-Difluoro-3,4-dihydro-2H-chromen-4-ol
To a solution of 5,7-difluoro-2,3-dihydro-4H-chromen-4-one (14.2 g, 77.0 mmol, US 20050038032) in methanol (200 mL) was added sodium borohydride (3.50 g, 92.5 mmol) at 0° C. The reaction mixture was stirred at the same temperature for 1 hour, and evaporated to remove methanol. The residue was quenched with water, and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated in vacuum. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1 as an eluent) to afford the title compound as a pale gray solid (9.64 g, 67%).

reactant | 5,7-difluoro-2,3-dihydro-4H-chromen-4-one | 77.0 mmol, 14.2 g | FC1=C2C(CCOC2=CC(=C1)F)=O | C9H6F2O2
reactant | sodium borohydride | 92.5 mmol, 3.50 g | [BH4-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 5,7-Difluoro-3,4-dihydro-2H-chromen-4-ol | 9.64 g, 67% | FC1=C2C(CCOC2=CC(=C1)F)O | C9H8F2O2
